US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-3-methoxy-4-phenyl-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (9 eq), ethylene glycol/Et2O (1/2.8 v/v, 34 ml), 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-3-hydroxy-4-phenyl-1H-pyrrol-2(5H)-one (1 g, 2.48 mmol, 1 eq) and MeOH (10 ml); yield: 0.160 g (60%); MS m/z: 418.1 [M+H]+; 1H-NMR: (400 MHz, CDCl3) δ: 7.87 (s, 1H), 7.74 (s, 1H), 7.58-7.50 (m, 3H), 7.36-7.2 (m, 5H), 4.18 (s, 3H); HPLC (METHOD [A]): rt 14.70 min (99.68%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 9 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 34 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-3-hydroxy-4-phenyl-1H-pyrrol-2(5H)-one | 2.48 mmol, 1 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)C2=CC=CC=C2)O)=O | C23H15F2N3O2
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-5-(2,3-difluorophenyl)-3-methoxy-4-phenyl-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)C2=CC=CC=C2)OC)=O | C24H17F2N3O2
